US06462036B1
Methyl thiosalicylate (2.0 g) was added dropwise to a stirred solution of sodium methoxide (1.28 g) in methanol (50 ml) at ambient temperature. The mixture was stirred at ambient temperature for 15 minutes and then a solution of 2-(bromoacetyl)thiophene (2.26 g) in methanol (50 ml) was added dropwise. After the addition was complete the mixture was boiled under reflux for 3 hours, then cooled, and 10% aqueous hydrochloric acid (100 ml) was added. A solid was collected by filtration, dried and then recrystallized from ethanol to give 2-thenoylbenzo[b]thiophene-3-ol.

reactant | Methyl thiosalicylate | 2.0 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | sodium methoxide | 1.28 g | C[O-].[Na+]
reactant | 2-(bromoacetyl)thiophene | 2.26 g | BrCC(=O)C=1SC=CC1 | C6H5BrOS
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-thenoylbenzo[b]thiophene-3-ol | C1(=CC=CS1)C(=O)C1=C(C2=C(S1)C=CC=C2)O | C13H8O2S2
